US07414131B2
A. 7-Benzyl-N-(6-(trifluoromethyl)pyridin-3-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine
7-Benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (0.5 g, 1.93 mmol) was dissolved in anhydrous dioxane (3 mL) and 6-Trifluoromethylpyridin-3-ylamine was added (469 mg, 2.9 mmol), followed by HI/H2O (0.3 mL, 47%). The mixture was heated at 130° C. for 600 s in a Personal Chemistry microwave. The solvents were removed under vacuum and the residue was dissolved in ethyl acetate and washed with sat. NaHCO3 and brine. The organic layer was dried over Na2SO4, filtered and evaporated to give the product as an orange solid (700 mg, 95% crude). The crude product was used for the subsequent step.

reactant | 7-Benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 1.93 mmol, 0.5 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)Cl | C14H14ClN3
reactant | 6-Trifluoromethylpyridin-3-ylamine | FC(C1=CC=C(C=N1)N)(F)F | C6H5F3N2
reactant | HI H2O | 0.3 mL | I.O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 7-Benzyl-N-(6-(trifluoromethyl)pyridin-3-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 700 mg, 95% | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)NC=1C=NC(=CC1)C(F)(F)F | C20H18F3N5
